US04589905
Eight grams of Lawesson's Reagent was added to a stirring solution of 3 g of 5-cyano-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide in 75 ml of toluene. The reaction mixture was refluxed for approximately 1 hour and the solution was evaporated to dryness. The residue was dissolved in methylene chloride and filtered. The filtrate was concentrated under reduced pressure and the residue was chromatographed employing high pressure liquid chromatography and methylene chloride as the eluent. Fractions containing the second spot were combined and the solvent was evaporated therefrom. The residue was recrystallized from toluene to provide 250 mg of 5-cyano-N-methyl-1-phenyl-1H-pyrazole-4-thiocarboxamide, MP=215°-217° C.

reactant | Lawesson's Reagent | Eight grams | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 5-cyano-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide | 3 g | C(#N)C1=C(C=NN1C1=CC=CC=C1)C(=O)NC | C12H10N4O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 5-cyano-N-methyl-1-phenyl-1H-pyrazole-4-thiocarboxamide | 250 mg | C(#N)C1=C(C=NN1C1=CC=CC=C1)C(NC)=S | C12H10N4S
